US08198453B2
(R)-tert-Butyl 3-((R)-(5-chloro-2-methylphenyl)(2-(methoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate (1.0 g, 2.27 mmol) was dissolved in a solution of 20% (V/V) TFA/CH2Cl2 (20 mL). The reaction mixture was stirred at room temperature for 2 h, TLC showed the starting material disappeared, a solution of saturated sodium bicarbonate was added dropwise to adjust pH=7-8. The resulting mixture was extracted with CH2Cl2 (3×30 mL), washed with brine, dried over Na2SO4, concentrated in vacuo to afford methyl 2-((R)-(5-chloro-2-methylphenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate (780 mg, 100%).

reactant | (R)-tert-Butyl 3-((R)-(5-chloro-2-methylphenyl)(2-(methoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate | 2.27 mmol, 1.0 g | ClC=1C=CC(=C(C1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCNC(=O)OC)C | C22H33ClN2O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | TFA CH2Cl2 | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | methyl 2-((R)-(5-chloro-2-methylphenyl)((R)-piperidin-3-yl)methoxy)ethylcarbamate | 780 mg, 100% | ClC=1C=CC(=C(C1)[C@H](OCCNC(OC)=O)[C@H]1CNCCC1)C | C17H25ClN2O3
